US09226916B2
a) [(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of [(3S,4R)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester (example 265, a) the title compound was prepared from rac-[(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine (WO2008128891) and 4-fluorophenyl chloroformate. MS m/e: 423.3 [M+H]+. This was followed by column chromatography on Chiralpak AD eluting with a gradient formed from ethanol and heptane. The product containing fractions were evaporated to yield the title compound as off-white solid. MS m/e: 423.3 [M+H]+.

reactant | [(3S,4R)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)=O | C25H23Cl2FN2O2
reactant | rac-[(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)F)NC | C18H21FN2
reactant | 4-fluorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
product | [(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)F)CC1=CC=CC=C1)=O | C25H24F2N2O2
